US04992451
Bis(3-nitrooxypropyl) 2-amino-1.4-dihydro-6-methyl-4(3-nitrophenyl)pyridine-3,5-dicarboxylate (Compound No. 214)
500 ml of an isopropanol solution containing 18.8 g (55.7 mmoles) of 3-nitrooxypropyl 2-(3-nitrobenzylidene)acetoacetate, 14.76 g (55.7 mmoles) of 3-nitrooxypropyl amidinoacetate acetate and 3.00 g (55.7 mmoles) of sodium methoxide were heated under reflux for 90 minutes. The solution was then cooled and insolubles were filtered off. The isopropanol was then evaporated off under reduced pressure. The resulting residue was dissolved in methylene chloride, and the solution was washed with water and dried over anhydrous sodium sulfate. The methylene chloride was evaporated off under reduced pressure, to give a residue, which was purified by silica gel column chromatography, eluted with a 3:1 by volume mixture of toluene and ethyl acetate, and the product was recrystallized from toluene, to afford 19.3 g (yield 65.9%) of the title compound as yellow powdery crystals, melting at 145°-146° C.

reactant | 3-nitrooxypropyl 2-(3-nitrobenzylidene)acetoacetate | 55.7 mmoles, 18.8 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCCCO[N+](=O)[O-])C(=O)C)C=CC1 | C14H14N2O8
reactant | 3-nitrooxypropyl amidinoacetate acetate | 55.7 mmoles, 14.76 g | C(C)(=O)O.C(N)(=N)CC(=O)OCCCO[N+](=O)[O-]
reactant | sodium methoxide | 55.7 mmoles, 3.00 g | C[O-].[Na+]
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
product | Bis(3-nitrooxypropyl) 2-amino-1.4-dihydro-6-methyl-4(3-nitrophenyl)pyridine-3,5-dicarboxylate | 19.3 g, yield 65.9% | NC=1NC(=C(C(C1C(=O)OCCCO[N+](=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCO[N+](=O)[O-])C | C20H23N5O12
